US04864021
Preparation of 3-[3-(1,2-dihydro-2-oxo-4-pyridyloxycarbonyl)benzoyl]-5-fluoro-1-(2-tetrahydrofuranyl)uracil
A 1.00 g quantity of isophthaloyl chloride and 0.70 ml of triethylamine were added to a solution of 1.00 g of 5-fluoro-1-(2-tetrahydrofuranyl)uracil in 30 ml of dried dioxane. The mixture was refluxed for 2 hours. Thereto added was 1.00 ml of triethylamine and the mixture was refluxed for 2 hours. Thereto further added was 0.60 g of 4-hydroxy-2(1H)-pyridone and the mixture was refluxed for 3 hours. The solvent was distilled off and 30 ml of ethyl acetate and 30 ml of water were added to the residue. The insolubles were removed by filtration. The ethyl acetate layer was separated, dried over anhydrous sodium sulfate and concentrated. The concentrate was subjected to silica gel column chromatography to conduct gradient elution using chloroform and mixtures of methyl (up to 2%) and chloroform. The fractions corresponding to the title compound were collected and concentrated, giving 0.40 g of a powder in a yield of 18%.

reactant | isophthaloyl chloride | C(C1=CC(C(=O)Cl)=CC=C1)(=O)Cl | C8H4Cl2O2
reactant | triethylamine | 0.70 ml | C(C)N(CC)CC | C6H15N
reactant | 5-fluoro-1-(2-tetrahydrofuranyl)uracil | 1.00 g | FC=1C(NC(N(C1)C1OCCC1)=O)=O | C8H9FN2O3
reactant | triethylamine | 1.00 ml | C(C)N(CC)CC | C6H15N
reactant | 4-hydroxy-2(1H)-pyridone | 0.60 g | OC1=CC(NC=C1)=O | C5H5NO2
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 3-[3-(1,2-dihydro-2-oxo-4-pyridyloxycarbonyl)benzoyl]-5-fluoro-1-(2-tetrahydrofuranyl)uracil | 0.40 g, yield of 18% | O=C1NC=CC(=C1)OC(=O)C=1C=C(C(=O)N2C(N(C=C(C2=O)F)C2OCCC2)=O)C=CC1 | C21H16FN3O7
